Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
arrhythmia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of SVT presenting 
from his PCP appointment for arrhythmia and recent syncope type 
episode. 

The patient reports that since beginning of the ___ he has 
overall had less energy and has felt more fatigued.  He also 
says that he has been getting some dyspnea on exertion when 
walking up large chills that has never occurred since the 
beginning of the ___.  He notes as well that he has been 
falling asleep more often especially while seated.  He denies 
any episodes of fainting or falls associated with this.

He also has been diagnosed with atrial flutter and has had a 
recent Holter monitor within the last year to evaluate for 
palpitations.

Then earlier this week, he says he was driving home and was on a 
back road when he apparently fell asleep at the wheel and awoke 
with his car in the bushes.  He can remember driving on his side 
street to his house, but then does not remember falling asleep, 
and all he can remember is waking up with his car that had run 
into some trees.

Prior to this accident he had returned from a trip to ___.  
He states that he felt jet lagged and tired. He sustained an 
injury to his left lower leg but denies any pain. He denies any 
preceding palpitations, shortness of breath, lightheadedness or 
chest pain.

He saw his PCP for this and based on this history they referred 
him to the ED for further work up. 

Of not his wife states that he snores. He often falls asleep in 
his chair. He has been feeling low energy the past few days. 

He has a history of palpitations and saw Dr. ___, last in 
-___. He had a Holter which reportedly showed some PACs but 
otherwise was non-revealing. His ECG was reportedly without P 
waves so it was thought he had an accelerated junctional rhythm 
in the 110s. He was started on metoprolol XL 25mg PO daily

In the ED, initial VS were: Temp 97.9 HR 63 BP 141/74 RR 18 02 
98% RA 

ECG:ventricular rate of 42, irregular, afib vs typical aflutter, 
no ST or T wave changes 

Labs showed:
WBC: 6.7 RBC: 4.25* Hgb: 13.5*  Plt Ct: 116* 
___: 13.7* PTT: 27.6 ___: 1.3* 
UreaN: 15 Creat: 0.9 Na: 136 K: 7.8* Cl: 103 HCO3: 19*  
ALT: 34 AST: 84* AlkPhos: 60 TotBili: 1.4 
cTropnT: <0.01 
TSH: 2.1 

Imaging showed: 
CXR within normal limits and tib/fib plain film with no fracture 
(see below for full report impressions) 

Consults: none 

Patient received: no medications in the ED 

Transfer VS were: HR 58 BP 128/67 RR 17 02 100% RA 

On arrival to the floor, patient reports that he currently feels 
well. He confirms his above history. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI

 
Past Medical History:
-SVT
-BPH
-diverticulosis
 
Social History:
___
Family History:
Reports that his father had a history of TIAs. He is unaware of 
his mother's medical history.
 
Physical Exam:
ADMISSION EXAM:
===============
VS: ___ 0007 Temp: 98.1 PO BP: 125/72 R Lying HR: 53 RR: 18 
O2 sat: 95% O2 delivery: Ra 
GENERAL: lying in bed older appearing male in no acute pain or 
distress
HEENT: AT/NC, anicteric sclera, pupils equal round reactive to 
light, extraocular movements intact
NECK: supple, no JVP
CV: Regular rate and rhythm, no murmurs gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, left lower extremity with 
trace edema, notably larger than the right extremity.  Some 
ecchymoses on the medial aspect of his left medial malleolus
PULSES: 2+ radial pulses bilaterally
NEURO: Cranial nerves II through XII grossly intact, strength 5 
out of 5 in upper and lower extremities bilaterally
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM:
===============
24 HR Data (last updated ___ @ 1220) 
Temp: 98.1 (Tm 98.6), BP: 113/69 (113-129/60-72), HR: 45 
(45-62), RR: 18 (___), O2 sat: 96% (94-98), O2 delivery: Ra, 
Wt: 212.52 lb/96.4 kg 
GEN: sitting up in bed in NAD
HEENT: NC/AT no JVD noted
CV: irregular, bradycardic, no m/r/g
PULM: CTABL, no increased WOB, no crackles at lung bases
GI: soft, NT/ND, +BS
EXTR: no cyanosis, clubbing, LLE > RLE in size, trace pitting 
edema
NEURO: AOx3
 
Pertinent Results:
ADMISSION LABS
===============
___ 04:15PM BLOOD WBC-6.7 RBC-4.25* Hgb-13.5* Hct-41.4 
MCV-97 MCH-31.8 MCHC-32.6 RDW-13.6 RDWSD-48.5* Plt ___
___ 04:15PM BLOOD Neuts-65 Bands-0 ___ Monos-11 Eos-1 
Baso-3* ___ Myelos-0 AbsNeut-4.36 AbsLymp-1.34 
AbsMono-0.74 AbsEos-0.07 AbsBaso-0.20*
___ 04:15PM BLOOD ___ PTT-27.6 ___
___ 04:15PM BLOOD Glucose-89 UreaN-15 Creat-0.9 Na-136 
K-7.8* Cl-103 HCO3-19* AnGap-14
___ 04:15PM BLOOD ALT-34 AST-84* AlkPhos-60 TotBili-1.4
___ 04:15PM BLOOD cTropnT-<0.01
___ 04:15PM BLOOD Albumin-4.0 Calcium-9.6 Phos-4.0 Mg-2.0
___ 05:19PM BLOOD K-4.7

IMAGING
=======
___ CXR PA/lateral
- No acute cardiopulmonary process.  No pulmonary edema.

___ XR Left Tibia/Fibula
- No fracture or dislocation.  Soft tissue edema in the lower 
leg.  
Degenerative changes at the left knee with features of 
chondrocalcinosis. 

___ ___
- There is normal compressibility, flow, and augmentation of the 
left common femoral, femoral, and popliteal veins. Normal color 
flow and compressibility are demonstrated in the posterior 
tibial and peroneal veins.  
- There is normal respiratory variation in the common femoral 
veins bilaterally. 
- No evidence of medial popliteal fossa (___) cyst. 
- IMPRESSION: No evidence of DVT in the left lower extremity 
veins. 

DISCHARGE LABS
===============
___ 07:20AM BLOOD WBC-4.8 RBC-4.28* Hgb-13.2* Hct-41.4 
MCV-97 MCH-30.8 MCHC-31.9* RDW-13.6 RDWSD-48.5* Plt ___
___ 07:20AM BLOOD ___ PTT-28.0 ___
___ 07:20AM BLOOD Glucose-93 UreaN-14 Creat-0.8 Na-142 
K-4.3 Cl-104 HCO3-26 AnGap-12
___ 07:20AM BLOOD proBNP-___*
___ 07:20AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.8
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with PMH of SVT (likely atrial 
tachycardia, treated with beta blockade) who initially presented 
to his primary care physician with increased fatigue, dyspnea on 
exertion, and episode of possible syncope in which he had a 
motor vehicle accident. He was found to be in new atrial 
fibrillation with slow ventricular response on ECG, thus was 
sent to ___ for further evaluation. 

ACUTE ISSUES:
=============
# Syncope
# Loss of consciousness episode 
# ?Symptomatic bradycardia
It was unclear if Mr. ___ motor vehicle accident was due to a 
true syncopal episode or due to falling asleep due to worsening 
fatigue. History elicited included no prodrome, no post-ictal 
state, non-exertional in onset. As above, he has a history of 
SVT seen on event monitor in ___. Given presentation with 
subacute worsening fatigue, there was concern for symptomatic 
bradycardia. Thus, his metoprolol was stopped. EKG showed slow 
atrial fibrillation. No additional events were seen on 
telemetry. He will be set up with a Zio patch for continued 
monitoring as an outpatient. A TTE will be performed as an 
outpatient as well. He was counseled that he cannot drive for at 
least 6 months. Due to reported history of significant snoring 
per history, an outpatient sleep study may also be indicated for 
evaluation of obstructive sleep apnea.

# Atrial fibrillation with slow ventricular response
As above for management of arrhythmia monitoring. Mr. ___ 
___ score is 2 (age), for which anticoagulation was 
initiated with apixaban 5mg BID. He was also counseled regarding 
possible cardioversion at future date as outpatient.

# Unilateral left lower extremity edema:
The patient was noted to have unilateral lower extremity 
swelling on exam, which was non-tender. Due to concern for 
syncope, ___ was performed to assess for DVT. This was 
negative. Though his lower extremity edema was unilateral, a 
review of his records was performed to assess for possible heart 
failure. His weight was noted to be stable over the past few 
years. He had normal oxygen saturation throughout his 
hospitalization. His volume exam was unremarkable. CXR did not 
show signs of pulmonary edema. His BNP was 1055. As above, an 
outpatient TTE will be performed to assess.

TRANSITIONAL ISSUES:
====================
NEW/CHANGED MEDICATIONS
[ ] Started apixaban 5mg BID
[ ] Stopped metoprolol succinate 25mg PO QD

[ ] Will require outpatient Zio patch monitoring, to be set up 
by Dr. ___
[ ] Will require outpatient TTE, to be set up by Dr. ___
[ ] Consider sleep study for evaluation of obstructive sleep 
apnea
[ ] ___ require cardioversion if remains in afib

#CODE: Full (confirmed) 
#CONTACT: Wife and HCP ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Atrial fibrillation with slow ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to take care of you at ___.

WHY WAS I IN THE HOSPITAL?
- You were sent in from your primary care office to be evaluated 
for slow irregular heart rhythms.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were monitored for your slow irregular heart rhythm with 
continuous telemetry (constant check of your heart rhythm)
- It was felt that you were in a rhythm called "atrial 
fibrillation with slow ventricular response."
- This may be why you have felt more tired recently.
- We stopped one of your medications, metoprolol.
- We started you on a blood thinner called apixaban ("Eliquis") 
to help prevent strokes.
- You also were evaluated for your lower leg swelling with an 
ultrasound, which did not show any clots.

WHAT SHOULD I DO AFTER THE HOSPITAL?
- You should continue to have monitoring of your heart rhythms 
for the next two weeks with a "Zio Patch" monitor.
- You should receive an outpatient echocardiogram ("TTE"), which 
is an ultrasound of your heart.
- As an outpatient, you will receive medications to try to 
switch your heart rhythm back to normal ("cardioversion").

We wish you the best!

Your ___ Care Team

 
Followup Instructions:
___